US07517991B2
To a solution of 4-aminocarbonyl-1-(1-naphthylsulfonyl)piperidine (10.6 g, 33.3 mmol) in tetrahydrofuran (200 mL) stirring under argon at room temperature, was added borane-tetrahydrofuran complex (1.5 M in tetrahydrofuran, 67 mL, 100 mmol). The resulting solution was heated to 80° C. for 6 h before the solvent was evaporated under vacuum. The residue was dissolved in 1.0 M aqueous hydrochloric acid (100 mL), and this was washed with diethyl ether (100 mL twice). The aqueous layer was basified to pH 10 with 50% aqueous sodium hydroxide and extracted with dichloromethane (50 mL three times). The combined dichloromethane extracts were dried (anhydrous sodium sulfate) and evaporated under vacuum to obtain 4-aminomethyl-1-(1-naphthylsulfonyl)piperidine (9.1 g, 90% yield).

reactant | 4-aminocarbonyl-1-(1-naphthylsulfonyl)piperidine | 33.3 mmol, 10.6 g | NC(=O)C1CCN(CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C16H18N2O3S
reactant | borane tetrahydrofuran | 100 mmol, 1.5 M, 67 mL | B.O1CCCC1
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 4-aminomethyl-1-(1-naphthylsulfonyl)piperidine | 9.1 g, 90% yield | NCC1CCN(CC1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C16H20N2O2S
